US04362728
A mixture of 4-amino-2-(4-phthalimidobutyl)-pyrimidine (1 g.), 2,2,2-trifluoroethylisothiocyanate (1 g.) and acetonitrile was stirred at 70° for 18 hours. The mixture was diluted with acetonitrile (10 ml.), cooled in ice and then filtered to give 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(4-phthalimidobutyl)-pyrimidine (1.03 g.), m.p. 204°-205°.

reactant | 4-amino-2-(4-phthalimidobutyl)-pyrimidine | 1 g | NC1=NC(=NC=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H16N4O2
reactant | 2,2,2-trifluoroethylisothiocyanate | 1 g | FC(CN=C=S)(F)F | C3H2F3NS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(4-phthalimidobutyl)-pyrimidine | 1.03 g | FC(CNC(NC1=NC(=NC=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O)=S)(F)F | C19H18F3N5O2S
